US07902356B2
1-(2-Methoxy-4-nitro-phenyl)-4-triisopropylsilanyloxy-piperidine
Dissolve 1-(2-methoxy-4-nitro-phenyl)-piperidin-4-ol (1.19 g, 4.72 mmol) in DMF (25 mL), followed by addition of triisopropylsilyl-trifluoromethanesulfonate (1.50 mL, 5.56 mmol) and Et3N (0.80 mL, 5.87 mmol). Stir the solution at room temperature for 2 h, then add water (50 mL) and extract with EtOAc (2×50 mL). Combine the organic solutions and wash with water (2×30 mL) and brine (30 mL), then dry, filter, and concentrate. Purify the crude material by flash chromatography, using a linear gradient of 100% hexanes to 20% EtOAc/hexanes, to give the title compound as a yellow solid (1.55 g, 80%). MS (ES+) 409.3 (M+1)+. 1H NMR (400 MHz, CDCl3) δ: 7.84 (dd, 1H, J=8.8, 2.6 Hz), 7.68 (d, 1H, J=2.6 Hz), 6.89 (d, 1H, J=8.8 Hz), 4.07-4.01 (m, 1H), 3.93 (s, 3H), 3.45-3.38 (m, 2H), 3.13-3.06 (m, 2H), 1.99-1.91 (m, 2H), 1.81-1.73 (m, 2H), 1.07-1.06 (m, 21H).

reactant | 1-(2-methoxy-4-nitro-phenyl)-piperidin-4-ol | 4.72 mmol, 1.19 g | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCC(CC1)O | C12H16N2O4
reactant | triisopropylsilyl-trifluoromethanesulfonate | 5.56 mmol, 1.50 mL | C(C)(C)[Si](C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F | C10H21F3O3SSi
reactant | Et3N | 5.87 mmol, 0.80 mL | CCN(CC)CC | C6H15N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 1-(2-Methoxy-4-nitro-phenyl)-4-triisopropylsilanyloxy-piperidine | 1.55 g, 80% | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCC(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C21H36N2O4Si
